US09416137B2
To a solution of (2R,6R,11R)-3-(2-methoxyethyl)-6,11-dimethyl-1,2,3,4,5,6-hexahydro-2,6-methanobenzo[d]azocine-8-carboxamide (130 mg, 0.43 mmol) in ethyl acetate (10 mL) was added 2N HCl/ether (320 μL, 0.64 mmol) and the mixture stirred for 1.5 hours. The solvent was removed under reduced pressure then freeze dried giving (2R,6R,11R)-3-(2-methoxyethyl)-6,11-dimethyl-1,2,3,4,5,6-hexahydro-2,6-methanobenzo[d]azocine-8-carboxamide hydrochloride (131 mg, 90% yield); LC/MS (M+H)+=303.22. 1H-NMR (300 MHz, DMSO) δ 10.59-10.44 (br d, 1H), 7.96 (s, 1H), 7.78 (s, 1H), 7.68 (d, 1H), 7.31 (d, 1H), 7.20 (d, 1H), 3.84-3.49 (m, 3H), 3.49-2.95 (6H+H2O), 2.43-2.20 (m, 2H), 2.16-1.97 (m, 2H), 1.54-1.23 (m, 2H), 0.87-0.66 (m, 3H).

reactant | (2R,6R,11R)-3-(2-methoxyethyl)-6,11-dimethyl-1,2,3,4,5,6-hexahydro-2,6-methanobenzo[d]azocine-8-carboxamide | 0.43 mmol, 130 mg | COCCN1[C@@H]2CC3=C([C@](CC1)([C@H]2C)C)C=C(C=C3)C(=O)N | C18H26N2O2
reactant | HCl ether | 0.64 mmol, 2N, 320 μL | Cl.CCOCC
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | (2R,6R,11R)-3-(2-methoxyethyl)-6,11-dimethyl-1,2,3,4,5,6-hexahydro-2,6-methanobenzo[d]azocine-8-carboxamide hydrochloride | 131 mg, 90% yield | Cl.COCCN1[C@@H]2CC3=C([C@](CC1)([C@H]2C)C)C=C(C=C3)C(=O)N | InChI=1S/C18H26N2O2.ClH/c1-12-16-11-13-4-5-14(17(19)21)10-15(13)18(12,2)6-7-20(16)8-9-22-3;/h4-5,10,12,16H,6-9,11H2,1-3H3,(H2,19,21);1H/t12-,16+,18+;/m0./s1
